US05208240
Preparation of N-(2-Aminoethyl)-2-[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin 8-yl)propyl]phenylamino]-acetamide
Dissolve 2-[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenylamino]acetic acid (754 mg, 1.87 mmol) in dimethylformamide (20 mL) and treat with N-hydroxysuccinimide (215 mg, 1.87 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (751 mg, 3.92 mmol). Stir for 1 hour and add to a stirring solution of ethylenediamine (20 mL of a 10% solution in methanol). Stir for 1 hour and dilute with chloroform (600 mL). Separate the organic phase, wash with 5% sodium carbonate (200 mL), then brine (300 mL). Dry (MgSO4) and evaporate the solvent in vacuo. Purify by radial chromatography to give the title compound.

reactant | 2-[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenylamino]acetic acid | 1.87 mmol, 754 mg | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC1=CC=C(C=C1)NCC(=O)O)C)CCC)=O | C22H29N5O4
reactant | N-hydroxysuccinimide | 1.87 mmol, 215 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.92 mmol, 751 mg | Cl.CN(CCCN=C=NCC)C
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | chloroform | 600 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(2-Aminoethyl)-2-[4-[2-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin 8-yl)propyl]phenylamino]-acetamide | NCCNC(CNC1=CC=C(C=C1)CC(C)C=1NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC)=O | C24H35N7O3
